US05753664
3,5-Dimethyl-2-[4-(4-phenacyloxybenzoyl)benzylthio]-4-(3H)-quinazolinone
A solution of 2-[4-(4-hydroxybenzoyl)benzylthio]-3,5-dimethyl-4(3H)-quinazolinone (413 mg), phenacyl bromide (315 mg) and potassium carbonate (436 mg) in DMF (7 ml) was stirred at room temperature for 15 hours. This reaction mixture was concentrated and the residue was dissolved in chloroform, washed with water, dried, and concentrated. The residue was recrystallized from chloroform-ethyl acetate to provide the title compound as colorless solid (313 mg).

reactant | 2-[4-(4-hydroxybenzoyl)benzylthio]-3,5-dimethyl-4(3H)-quinazolinone | 413 mg | OC1=CC=C(C(=O)C2=CC=C(CSC3=NC4=CC=CC(=C4C(N3C)=O)C)C=C2)C=C1 | C24H20N2O3S
reactant | phenacyl bromide | 315 mg | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | potassium carbonate | 436 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | 3,5-Dimethyl-2-[4-(4-phenacyloxybenzoyl)benzylthio]-4-(3H)-quinazolinone | 313 mg | CN1C(=NC2=CC=CC(=C2C1=O)C)SCC1=CC=C(C=C1)C(C1=CC=C(C=C1)OCC(=O)C1=CC=CC=C1)=O | C32H26N2O4S
